US07585885B2
(S)-(+)-2-sec-Butylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester
Treat a mixture of (s)-(+)-2-sec-butylamino-6-methanesulfonylamino-isonicotinic acid methyl ester (13.63 g, 0.04523 mol) and potassium carbonate (12.50 g, 0.09046 mol) in DMF (42 mL) with iodomethane (7.90 g, 0.05563 mol). Stir at room temperature for 18 h, and add water (200 mL). The aqueous layer was extracted with methyl tert-butyl ether (5×150 mL). Wash the combined organic layers with 1 N lithium chloride (5×100 mL), dry (magnesium sulfate) and concentrate to give the title compound as a solid (13.19 g, 92%).

reactant | (s)-(+)-2-sec-butylamino-6-methanesulfonylamino-isonicotinic acid methyl ester | 0.04523 mol, 13.63 g | COC(C1=CC(=NC(=C1)NS(=O)(=O)C)N[C@@H](C)CC)=O | C12H19N3O4S
reactant | potassium carbonate | 0.09046 mol, 12.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.05563 mol, 7.90 g | IC | CH3I
reactant | water | 200 mL | O | H2O
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
product | (S)-(+)-2-sec-Butylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester | 13.19 g, 92% | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C)N[C@@H](C)CC)=O | C13H21N3O4S
